### PR TITLE
[Merged by Bors] - feat(RingTheory): presentations of algebras

### PR DESCRIPTION
**Pull request by chrisflav**
Adds basic API for presentations of algebras and constructors for localization and base change.

This contribution was created as part of the AIM workshop "Formalizing algebraic geometry" in June 2024.

Co-authored-by: Andrew Yang @erdOne
Co-authored-by: Jung Tao Cheng @rontaucheng 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Localization/Away/Basic.lean [hunk 1]
```diff
@@ -61,6 +61,18 @@ theorem mul_invSelf : algebraMap R S x * invSelf x = 1 := by
   apply IsLocalization.mk'_one
 #align is_localization.away.mul_inv_self IsLocalization.Away.mul_invSelf
 
+/-- For `s : S`, this is a choice of `(x, n) : R × ℕ` such that
+`s * algebraMap R S (s ^ n) = algebraMap R S r`. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Away/Basic.lean:65]:
```suggestion
/-- For `s : S` with `S` being the localization away from `f`,
this is a choice of `(r, n) : R × ℕ` such that `s * algebraMap R S (f ^ n) = algebraMap R S r`. -/
```

Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Localization/Away/Basic.lean:65]: Where is `x` in the statement? What is `r`?
Also, `x` is a `variable` here, so the name `x` should not be used to describe something else.
Did you mean to say
"For `s : S`, this is a choice of `(r, n) : R × ℕ` such that `s * algebraMap R S (x ^ n) = algebraMap R S r`?
(I.e., expressing `s` as `r/x^n` informally.)

File: Mathlib/RingTheory/Presentation.lean [hunk 2]
```diff
@@ -0,0 +1,220 @@
...
+1. `relations`: The type of relations.
+2. `relation : relations → MvPolynomial vars R`: The assignment of
+each relation to a polynomial in the generators.
+-/
+@[nolint checkUnivs]
+structure Algebra.Presentation extends Algebra.Generators.{w} R S where
+  /-- The type of relations.  -/
+  relations : Type t
+  /-- The assignment of each relation to a polynomial in the generators. -/
+  relation : relations → MvPolynomial vars R
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:57]: I think the names of these two are too similar and might be confusing. Maybe make `relations` -> `rels` to mimic `vars`.

File: Mathlib/RingTheory/Presentation.lean [hunk 3]
```diff
@@ -0,0 +1,220 @@
...
+  /-- The relations span the kernel of the canonical map. -/
+  ker_algebraMap_eq_span_range_relation :
+    RingHom.ker (aeval val) = Ideal.span (Set.range <| relation)
+
+namespace Algebra.Presentation
+
+variable {R S}
+variable (P : Presentation.{t, w} R S)
+
+lemma ideal_eq_span_range_relation : P.ker = Ideal.span (Set.range <| P.relation) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:67]: I'd reverse it and call it `span_range_relation_eq_ker`.

File: Mathlib/RingTheory/Presentation.lean [hunk 4]
```diff
@@ -0,0 +1,220 @@
...
+  P.ker_algebraMap_eq_span_range_relation
+
+lemma algebraMap_relation (i) : aeval P.val (P.relation i) = 0 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:70]:
```suggestion
@[simp] lemma algebraMap_relation (i) : aeval P.val (P.relation i) = 0 := by
```

File: Mathlib/RingTheory/MvPolynomial/Localization.lean [hunk 5]
```diff
@@ -69,3 +79,78 @@ lemma isLocalization_C_mk' (a : R) (m : M) :
...
+    · rintro p ⟨q, rfl⟩
+      simp
+    · simp
+    · intro p q hp hq
+      simp [hp, hq]
+    · intro a x hx
+      simp [hx]
+
+@[simp]
+lemma auxHom_mk (p : MvPolynomial Unit R) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/MvPolynomial/Localization.lean:105]: Should this also be `private`? It uses a private definition in the statement, which will then not be understandable outside this file.

File: Mathlib/RingTheory/Presentation.lean [hunk 6]
```diff
@@ -0,0 +1,220 @@
...
+## Main definition
+
+- `Algebra.Presentation`: A presentation of a `R`-algebra `S` is a family of
+  generators with
+  1. `relations`: The type of relations.
+  2. `relation : relations → MvPolynomial vars R`: The assignment of
+     each relation to a polynomial in the generators.
+- `Algebra.Presentation.IsFinite`: A presentation is called finite, if both variables and relations
+  are finite.
+- `Algebra.dimension`: The dimension of a presentation is the number of generators minus the number
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Presentation.lean:27]: Surely, this should be `Algebra.Presentation.dimension` ?

File: Mathlib/RingTheory/Presentation.lean [hunk 7]
```diff
@@ -0,0 +1,220 @@
...
+-/
+@[nolint checkUnivs]
+structure Algebra.Presentation extends Algebra.Generators.{w} R S where
+  /-- The type of relations.  -/
+  relations : Type t
+  /-- The assignment of each relation to a polynomial in the generators. -/
+  relation : relations → MvPolynomial vars R
+  /-- The relations span the kernel of the canonical map. -/
+  ker_algebraMap_eq_span_range_relation :
+    RingHom.ker (aeval val) = Ideal.span (Set.range <| relation)
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Presentation.lean:60]:
```suggestion
    RingHom.ker (aeval val) = Ideal.span (Set.range relation)
```
Left-over from a previous version?

File: Mathlib/RingTheory/Presentation.lean [hunk 8]
```diff
@@ -0,0 +1,220 @@
...
+lemma quotientEquiv_symm (x : S) : P.quotientEquiv.symm x = P.σ x :=
+  rfl
+
+/--
+Dimension of a presentation defined as the cardinality of the generators
+minus the cardinality of the relations.
+
+Note: this definition is completely non-sensical for non-finite presentations and
+even then for this to make sense, you should assume that the presentation
+is standard smooth.
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:95]:
```suggestion
Note: this definition is completely non-sensical for non-finite presentations and
even then for this to make sense, you should assume that the presentation
is a complete intersection.
```

File: Mathlib/RingTheory/Presentation.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Presentation.lean:67]:
```suggestion
lemma ideal_eq_span_range_relation : P.ker = Ideal.span (Set.range P.relation) :=
```

File: Mathlib/RingTheory/Presentation.lean [hunk 9]
```diff
@@ -0,0 +1,220 @@
...
+-/
+noncomputable def dimension : ℕ :=
+  Nat.card P.vars - Nat.card P.relations
+
+/-- A presentation is called finite if there are only finitely-many
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:100]:
```suggestion
/-- A presentation is finite if there are only finitely-many
```

File: Mathlib/RingTheory/Presentation.lean [hunk 10]
```diff
@@ -0,0 +1,220 @@
...
+variable (P : Presentation.{t, w} R S)
+
+lemma ideal_eq_span_range_relation : P.ker = Ideal.span (Set.range <| P.relation) :=
+  P.ker_algebraMap_eq_span_range_relation
+
+lemma algebraMap_relation (i) : aeval P.val (P.relation i) = 0 := by
+  rw [← RingHom.mem_ker, ker_algebraMap_eq_span_range_relation]
+  exact Ideal.subset_span ⟨i, rfl⟩
+
+/-- The polynomial algebra wrt a family of generators module a family of relations. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Presentation.lean:74]:
```suggestion
/-- The polynomial algebra wrt a family of generators modulo a family of relations. -/
```

File: Mathlib/RingTheory/Presentation.lean [hunk 11]
```diff
@@ -0,0 +1,220 @@
...
+lemma ideal_fg_of_isFinite [P.IsFinite] : P.ker.FG := by
+  use (Set.finite_range P.relation).toFinset
+  simp [ideal_eq_span_range_relation]
+
+/-- If a presentation is finite, the corresponding quotient is
+of finite presentation. -/
+instance [P.IsFinite] : FinitePresentation R P.Quotient :=
+  FinitePresentation.quotient P.ideal_fg_of_isFinite
+
+lemma finitePresentation_of_presentation_of_isFinite [P.IsFinite] :
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:117]:
```suggestion
lemma finitePresentation_of_isFinite [P.IsFinite] :
```
This is already in the `Presentation` namespace right?

File: Mathlib/RingTheory/Presentation.lean [hunk 12]
```diff
@@ -0,0 +1,220 @@
...
+      induction x using MvPolynomial.induction_on with
+      | h_C a =>
+        simp only [Generators.algebraMap_apply, algHom_C, TensorProduct.algebraMap_apply,
+          id.map_eq_id, RingHom.id_apply, e]
+        erw [← MvPolynomial.algebraMap_eq, AlgEquiv.commutes]
+        simp
+      | h_add p q hp hq => simp only [map_add, hp, hq]
+      | h_X p i hp =>
+        simp [_root_.map_mul, e, hp]
+        rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:193]: Not sure how robust is `simp; rfl`. Maybe squeeze it.

File: Mathlib/RingTheory/Presentation.lean [hunk 13]
```diff
@@ -0,0 +1,220 @@
...
+    erw [H, ker_algebraMap_eq_span_range_relation] at H'
+    erw [← Ideal.mem_comap, Ideal.comap_symm, Ideal.map_map, Ideal.map_span, ← Set.range_comp] at H'
+    convert H'
+    simp
+    rfl
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:198]: Similarly.

File: Mathlib/RingTheory/Presentation.lean [hunk 14]
```diff
@@ -0,0 +1,220 @@
...
+lemma localizationAway_dimension_zero : (localizationAway r (S := S)).dimension = 0 := by
+  simp [Presentation.dimension, localizationAway]
+
+end Localization
+
+variable {T} [CommRing T] [Algebra R T] (P : Presentation R S)
+
+private lemma ker_algebraMap_eq_span_range_relation_baseChange :
+    RingHom.ker (aeval (R := T) (S₁ := T ⊗[R] S) P.baseChange.val) =
+      Ideal.span (Set.range fun i ↦ (MvPolynomial.map (algebraMap R T)) (P.relation i)) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Presentation.lean:173]: One could write the `fun i ↦ ...` part more concisely as `(MvPolynomial.map (algebraMap R T)) ∘ P.relation`, but I haven't check if this makes things better or worse later.

File: Mathlib/RingTheory/Presentation.lean [hunk 15]
```diff
@@ -0,0 +1,220 @@
...
+        simp only [Generators.algebraMap_apply, algHom_C, TensorProduct.algebraMap_apply,
+          id.map_eq_id, RingHom.id_apply, e]
+        erw [← MvPolynomial.algebraMap_eq, AlgEquiv.commutes]
+        simp
+      | h_add p q hp hq => simp only [map_add, hp, hq]
+      | h_X p i hp =>
+        simp [_root_.map_mul, e, hp]
+        rfl
+    erw [H, ker_algebraMap_eq_span_range_relation] at H'
+    erw [← Ideal.mem_comap, Ideal.comap_symm, Ideal.map_map, Ideal.map_span, ← Set.range_comp] at H'
```
Comment (MichaelStollBayreuth) [inline Mathlib/RingTheory/Presentation.lean:195]: Can these be combined into a single `erw`?

File: Mathlib/RingTheory/Presentation.lean (hunk 14 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Presentation.lean:174]: It seems to make things worse, so I left it as is.

**Comment by chrisflav** [comment]
Thanks for the quick reviews!

File: Mathlib/RingTheory/Presentation.lean (hunk 14 above)
Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Presentation.lean:174]: An alternative (which is just alternative notation, AFAIK) is
`((MvPolynomial.map (algebraMap R T)) (P.relation ·))` .

Comment (MichaelStollBayreuth) [reply Mathlib/RingTheory/Presentation.lean:174]: (But this is not really important...)

**Comment by MichaelStollBayreuth** [comment]
A question for native English speakers: Which is correct?
* "A `R`-algebra" 
* "An `R`-algebra"

My gut feeling says it's the second one (since it corresponds to what I would say when reading it), but I wouldn't want to claim I know all the rules.

File: Mathlib/RingTheory/Presentation.lean (hunk 14 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Presentation.lean:174]: The scope of `·` seems to be interpreted as restricted to `P.relation`, so this causes a type error.

**Comment by kbuzzard** [comment]
> A question for native English speakers: Which is correct?
> 
> * "A `R`-algebra"
> * "An `R`-algebra"
> 
> My gut feeling says it's the second one (since it corresponds to what I would say when reading it), but I wouldn't want to claim I know all the rules.

Definitely "an `R`-algebra". Indeed the rule is "write what you would say".

**Comment by chrisflav** [comment]
> > A question for native English speakers: Which is correct?
> > 
> > * "A `R`-algebra"
> > * "An `R`-algebra"
> > 
> > My gut feeling says it's the second one (since it corresponds to what I would say when reading it), but I wouldn't want to claim I know all the rules.
> 
> Definitely "an `R`-algebra". Indeed the rule is "write what you would say", and what you say depends on the sound not the actual letter (so e.g. "a eucalyptus tree" as the word is pronounced "Yucaliptus")

Fixed.

File: Mathlib/RingTheory/Presentation.lean [hunk 16]
```diff
@@ -0,0 +1,224 @@
...
+1. `rels`: The type of relations.
+2. `relation : relations → MvPolynomial vars R`: The assignment of
+each relation to a polynomial in the generators.
+-/
+@[nolint checkUnivs]
+structure Algebra.Presentation extends Algebra.Generators.{w} R S where
+  /-- The type of relations.  -/
+  rels : Type t
+  /-- The assignment of each relation to a polynomial in the generators. -/
+  relation : rels → MvPolynomial vars R
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:57]:
```suggestion
  relation : rels → MvPolynomial vars R
```

Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:57]:
```suggestion
  relation : rels → toGenerators.Ring
```

File: Mathlib/RingTheory/Presentation.lean [hunk 17]
```diff
@@ -0,0 +1,224 @@
...
+  /-- The relations span the kernel of the canonical map. -/
+  ker_algebraMap_eq_span_range_relation :
+    RingHom.ker (aeval val) = Ideal.span (Set.range relation)
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:60]:
```suggestion
    toGenerators.ker = Ideal.span (Set.range relation)
```
I wonder if we should just call it `span_range_relation_eq_ker` and replace the lemma below.

File: Mathlib/RingTheory/Presentation.lean [hunk 18]
```diff
@@ -0,0 +1,224 @@
...
+namespace Algebra.Presentation
+
+variable {R S}
+variable (P : Presentation.{t, w} R S)
+
+lemma span_range_relation_eq_ker : Ideal.span (Set.range P.relation) = P.ker :=
+  P.ker_algebraMap_eq_span_range_relation.symm
+
+@[simp]
+lemma algebraMap_relation (i) : aeval P.val (P.relation i) = 0 := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:71]:
```suggestion
lemma aeval_val_relation (i) : aeval P.val (P.relation i) = 0 := by
```

File: Mathlib/RingTheory/Presentation.lean [hunk 19]
```diff
@@ -0,0 +1,224 @@
...
+  erw [← RingHom.comap_ker]
+  simp only [Generators.localizationAway_vars, AlgEquiv.toAlgHom_eq_coe, AlgHom.toRingHom_eq_coe,
+    AlgEquiv.toAlgHom_toRingHom]
+  show Ideal.comap _ (RingHom.ker (mvPolynomialQuotientEquiv S r)) =
+    Ideal.span {C r * X () - 1}
+  simp [RingHom.ker_equiv, ← RingHom.ker_eq_comap_bot]
+
+/-- If `S` is the localization of `R` away from `r`, we can construct a natural
+presentation of `S` as `R`-algebra with a single generator `X` and the relation `r * X - 1 = 0`. -/
+@[simps rels relation]
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:151]: Working with the `Generators` api a bit more, I've come to realize having simp lemmas on the indexing types are not a good thing. Maybe make `rels` `lemmasOnly`.

File: Mathlib/RingTheory/Presentation.lean [hunk 20]
```diff
@@ -0,0 +1,224 @@
...
+      TensorProduct.includeRight_apply]
+    erw [aeval_map_algebraMap]
+    show _ = TensorProduct.includeRight _
+    erw [map_aeval, TensorProduct.includeRight.comp_algebraMap]
+    rfl
+
+/-- If `P` is a presentation of `S` over `R` and `T` is an `R`-algebra, we
+obtain a natural presentation of `T ⊗[R] S` over `T`. -/
+noncomputable
+def baseChange : Presentation T (T ⊗[R] S) where
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:218]:
```suggestion
@[simps relation]
def baseChange : Presentation T (T ⊗[R] S) where
```

File: Mathlib/RingTheory/Generators.lean [hunk 21]
```diff
@@ -126,6 +125,31 @@ def self : Generators R S where
   σ' := X
   aeval_val_σ' := aeval_X _
 
+section Localization
+
+variable (r : R) [IsLocalization.Away r S]
+
+/-- If `S` is the localization of `R` away from `r`, we obtain a canonical generator mapping
+to the inverse of `r`. -/
+@[simps vars val, simps (config := .lemmasOnly) σ]
```
Comment (erdOne) [inline Mathlib/RingTheory/Generators.lean:134]: Similar here. `vars` should not be simp IMO.

File: Mathlib/RingTheory/Generators.lean [hunk 22]
```diff
@@ -155,6 +179,34 @@ def extendScalars (P : Generators R T) : Generators S T where
   σ' x := map (algebraMap R S) (P.σ x)
   aeval_val_σ' s := by simp [@aeval_def S, ← IsScalarTower.algebraMap_eq, ← @aeval_def R]
 
+/-- If `P` is a family of generators of `S` over `R` and `T` is an `R`-algebra, we
+obtain a natural family of generators of `T ⊗[R] S` over `T`. -/
+noncomputable
+def baseChange {T} [CommRing T] [Algebra R T] (P : Generators R S) : Generators T (T ⊗[R] S) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Generators.lean:185]:
```suggestion
@[simps! val]
def baseChange {T} [CommRing T] [Algebra R T] (P : Generators R S) : Generators T (T ⊗[R] S) := by
```

File: Mathlib/RingTheory/Presentation.lean (hunk 17 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Presentation.lean:60]: You mean, state this the other way round?

Comment (erdOne) [reply Mathlib/RingTheory/Presentation.lean:60]: Yes.

Comment (chrisflav) [reply Mathlib/RingTheory/Presentation.lean]: Done.

File: Mathlib/RingTheory/Presentation.lean [hunk 23]
```diff
@@ -0,0 +1,231 @@
...
+- `Algebra.Presentation.dimension`: The dimension of a presentation is the number of generators
+  minus the number of relations.
+
+We also give constructors for localization and base change.
+
+## TODO
+
+- Define composition of presentations.
+- Define `Hom`s of presentations.
+
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:36]:
```suggestion
## Notes
This contribution was created as part of the AIM workshop
"Formalizing algebraic geometry" in June 2024.

```

File: Mathlib/RingTheory/Presentation.lean [hunk 24]
```diff
@@ -0,0 +1,231 @@
...
+  /-- The relations span the kernel of the canonical map. -/
+  span_range_relation_eq_ker :
+    Ideal.span (Set.range relation) = toGenerators.ker
+
+namespace Algebra.Presentation
+
+variable {R S}
+variable (P : Presentation.{t, w} R S)
+
+lemma ker_eq_span_range_relation : P.ker = Ideal.span (Set.range P.relation) :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Presentation.lean:70]: I think we can remove this.

**Comment by erdOne** [comment]
LGTM. What does @MichaelStollBayreuth think?

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM!

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by chrisflav** [comment]
Thanks for all the reviews!
